US08664220B2
Step 1: 2-Fluoro-benzylzinc bromide
2-Fluoro-benzyl bromide (1 g, 5.29 mmol), zinc (0.380 g, 5.82 mmol) and 1,2-dibromoethane (0.050 mL, 0.58 mmol) were mixed in THF (10 mL) and heated to reflux overnight. After cooling a solution of the title compound was obtained that was used directly and immediately in the next step.

reactant | 2-Fluoro-benzyl bromide | 5.29 mmol, 1 g | FC1=C(CBr)C=CC=C1 | C7H6BrF
reactant | zinc | 5.82 mmol, 0.380 g | [Zn] | Zn
reactant | 1,2-dibromoethane | 0.58 mmol, 0.050 mL | BrCCBr | C2H4Br2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-Fluoro-benzylzinc bromide | [Br-].FC1=C(C[Zn+])C=CC=C1 | InChI=1S/C7H6F.BrH.Zn/c1-6-4-2-3-5-7(6)8;;/h2-5H,1H2;1H;/q;;+1/p-1
